US09079866B2
4′-(5-Aminopyrazin-2-yl)-2′,3′-difluorobiphenyl-2-sulfonamide
A suspension of 4′-(5-aminopyrazin-2-yl)-N-tert-butyl-2′,3′-difluorobiphenyl-2-sulfonamide (168 mg, 0.40 mmol) in TFA (3 mL) was heated at 50° Celsius for 3 hours. The reaction was then cooled to rt and carefully partitioned between NaHCO3 and EtOAc. The organic layer was isolated, dried over MgSO4, and concentrated to dryness. Purification by FCC afforded the title compound (140 mg, 96%). MS (ESI): mass calcd. for C16H12F2N4O2S, 362.06; m/z found, 363.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.40 (s, 1H), 8.12-8.01 (m, 2H), 7.72-7.61 (m, 3H), 7.45-7.36 (m, 3H), 7.19 (m, 1H), 6.81 (s, 2H).

reactant | 4′-(5-aminopyrazin-2-yl)-N-tert-butyl-2′,3′-difluorobiphenyl-2-sulfonamide | 0.40 mmol, 168 mg | NC=1N=CC(=NC1)C1=C(C(=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(C)(C)C)F)F | C20H20F2N4O2S
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4′-(5-Aminopyrazin-2-yl)-2′,3′-difluorobiphenyl-2-sulfonamide | 140 mg, 96% | NC=1N=CC(=NC1)C1=C(C(=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N)F)F | C16H12F2N4O2S
